US06015825
(2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[4-chloro-1,2,3-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol
A solution of (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[1,2,3-triazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol (2.0 g, 5 mmol-a product of Example 66) in dichloromethane (100 ml) was treated with N-chlorosuccinimide (0.81 g, 6 mmol). The mixture was stirred and irradiated at room temperature for 3 days then evaporated to dryness under reduced pressure. The residue was partitioned between ethyl acetate(50 ml) and saturated sodium bicarbonate (20 ml). The organic layer was washed with brine (20 ml), dried (Na2SO4) and evaporated to dryness under reduced pressure.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[1,2,3-triazol-4-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1N=NNC1)O | C20H18F2N6O
reactant | N-chlorosuccinimide | 6 mmol, 0.81 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[4-chloro-1,2,3-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C1=C(N=NN1)Cl)O | C20H17ClF2N6O
